US07932271B2
[6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl](4-methylpiperazin-1-yl)methanone
To a dichloromethane (5 ml) solution of 6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]picolinic acid (130 mg, 0.307 mmol) were added N-methylmorpholine (41 μl, 0.368 mmol), 1-hydroxybenzotriazole (13 mg, 0.368 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (71 mg, 0.368 mmol) and 1-methylpiperazine (40 μl, 0.368 mmol). The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was diluted with dichloromethane. The diluted mixture was washed sequentially with water, a saturated aqueous solution of sodium bicarbonate and brine. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the dichloromethane:methanol=30:1 eluate was concentrated under reduced pressure to give the title compound (40 mg, 0.0791 mmol, 26%) as a white amorphous substance.

reactant | 6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]picolinic acid | 0.307 mmol, 130 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)C(=O)O)C1=C(C=CC(=C1)F)F | C19H12ClF2NO4S
reactant | N-methylmorpholine | 0.368 mmol, 41 μl | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.368 mmol, 13 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.368 mmol, 71 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-methylpiperazine | 0.368 mmol, 40 μl | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl](4-methylpiperazin-1-yl)methanone | 0.0791 mmol, 40 mg, 26% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)C(=O)N1CCN(CC1)C)C1=C(C=CC(=C1)F)F | C24H22ClF2N3O3S
